US06849619B2
(7bR,11aS)-9-[3-(4-fluorophenoxy)propyl-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3 b][1,4]thiazepino[6,5,4-hi]indole
The title compound of EXAMPLE 5 was prepared from (7bR,11aS)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole and 1-(3-chloropropoxy)-4-fluorobenzene following the procedure described in EXAMPLE 4. 1H NMR (CDCl3, 300 MHz): δ 7.0-6.78 (m, 6H), 6.65 (t, 1H, J=7.3 Hz), 3.95 (t, 2H, J=6.2 Hz), 3.84 (dd, 2H, J=16.4 Hz), 3.59 (m, 2H), 3.25 (m, 2H), 3.15 (m, 2H), 2.85 (m, 2H), 2.65 (m, 2H), 2.45 (m, 4H), 2.30 (m, 2H) ppm. LRMS (ES)+: 399 (M+H)+.

reactant | (7bR,11aS)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole | C1CSCC=2C=CC=C3[C@H]4[C@@H](N1C23)CCNC4 | C14H18N2S
reactant | 1-(3-chloropropoxy)-4-fluorobenzene | ClCCCOC1=CC=C(C=C1)F | C9H10ClFO
product | 3-(4-fluorophenoxy)propyl-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3 b][1,4]thiazepino[6,5,4-hi]indole | FC1=CC=C(OCCCC2CSCC=3C=CC=C4C5C(N2C34)CCNC5)C=C1 | C23H27FN2OS
